US03940394
[4-Chloro-6-(p-fluoroanilino)-2-pyrimidinylthio]acetic acid ethyl ester
A stirred mixture of 10.7 g of (4,6-dichloro-2-pyrimidinylthio)acetic acid ethyl ester, 4.4 g of p-fluoroaniline and 4.2 g of sodium carbonate was heated under reflux for 6 hr. and filtered. Water was added to the filtrate to the precipitation point. The precipitate was removed by filtration and recrystallized from 95% ethanol to afford 4.1 g of product; mp. 97°-102°C.

reactant | (4,6-dichloro-2-pyrimidinylthio)acetic acid ethyl ester | 10.7 g | C(C)OC(CSC1=NC(=CC(=N1)Cl)Cl)=O | C8H8Cl2N2O2S
reactant | p-fluoroaniline | 4.4 g | FC1=CC=C(N)C=C1 | C6H6FN
reactant | sodium carbonate | 4.2 g | C([O-])([O-])=O.[Na+].[Na+]
product | [4-Chloro-6-(p-fluoroanilino)-2-pyrimidinylthio]acetic acid ethyl ester | 4.1 g | C(C)OC(CSC1=NC(=CC(=N1)Cl)NC1=CC=C(C=C1)F)=O | C14H13ClFN3O2S
